US08609656B2
9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]-phenyl}-9H-purine-6-carboxylic acid (Table 3, Compound No. 6)
In 3 mL of methanol, 45 mg (0.092 mmol) of 9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purine-6-carboxylic acid methyl ester, and 2 mL of a 0.1 N sodium hydroxide aqueous solution was added thereto and the mixture solution was stirred at room temperature overnight. The reaction solution was neutralized with 0.1 N hydro-chloric acid, and then the deposited product was washed with water to obtain 30 mg (69%) of a target product as a pale yellow solid.

reactant | 9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purine-6-carboxylic acid methyl ester | 0.092 mmol, 45 mg | COC(=O)C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C21H14ClF3N6O3
reactant | sodium hydroxide | 0.1 N | [OH-].[Na+]
reactant | hydro-chloric acid | 0.1 N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]-phenyl}-9H-purine-6-carboxylic acid | 30 mg, 69% | ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)C(=O)O)=O)C(F)(F)F | C20H12ClF3N6O3
